US05077287
3-Amino-4-mercapto-pyridine hydrochloride
A 13.78 g (0.06 mol) sample of 3-(t-butyloxycarbonyl)amino-4-mercapto pyridine was dissolved with acetic acid (250 mL) and added to an ice cold solution of ~3N HCl in acetic acid which had been made by bubbling HCl(g) through glacial acetic acid (100 mL). After about four hours the resulting solid was filtered, washed with diethyl ether and dried in vacuo to yield 10.4 g (~100%) of the title compound.

reactant | 3-(t-butyloxycarbonyl)amino-4-mercapto pyridine | C(C)(C)(C)OC(=O)NC=1C=NC=CC1S | C10H14N2O2S
reactant | HCl | ~3N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 3-Amino-4-mercapto-pyridine hydrochloride | 10.4 g, ~100% | Cl.NC=1C=NC=CC1S | InChI=1S/C5H6N2S.ClH/c6-4-3-7-2-1-5(4)8;/h1-3H,6H2,(H,7,8);1H
